US04083983
Reaction of 2-(4-aminobutyl)-3-methoxypyridine with 1-methylthio-1-methylsulphinyl-2-nitroethylene and treatment of the product with methylamine according to the general procedure of Example 2 gives 1-nitro-2-methylamino-2-[4-(3-methoxy-2-pyridyl)butylamino]ethylene.

reactant | 2-(4-aminobutyl)-3-methoxypyridine | NCCCCC1=NC=CC=C1OC | C10H16N2O
reactant | 1-methylthio-1-methylsulphinyl-2-nitroethylene | CSC(=C[N+](=O)[O-])S(=O)C | C4H7NO3S2
reactant | methylamine | CN | CH5N
product | 1-nitro-2-methylamino-2-[4-(3-methoxy-2-pyridyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC1=NC=CC=C1OC)NC | C13H20N4O3
